US08877759B2
Preparation 11. Synthesis of tert-butyl 6-[[[3-amino-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazine-2-carbonyl]amino]carbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylate
3-amino-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazine-2-carbohydrazide (49.5 mg, 0.1665 mmol), 2-tert-butoxycarbonyl-3,4-dihydro-1H-isoquinoline-6-carboxylic acid (50.80 mg, 0.1832 mmol), diisopropyl ethyl amine (25.82 mg, 34.80 μL, 0.1998 mmol) and (benzotriazol-1-yloxy-dimethylamino-methylene)-dimethyl-ammonium tetrafluoroborate (58.82 mg, 0.1832 mmol) was stirred at ambient temperature in N,N-dimethyl formamide (495.0 μL) for 1 hour. The reaction mixture was partitioned between water and ethyl acetate. The combined organic extracts were washed with aqueous saturated sodium bicarbonate, then 0.5 N hydrochloric acid, followed by brine. The organic extracts were then dried over MgSO4 and concentrated in vacuo to give the sub-titled product. (92 mg, 99.27%) LC/MS m/z 557.2 [M+H]+.

reactant | 3-amino-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazine-2-carbohydrazide | 0.1665 mmol, 49.5 mg | NC=1C(=NC(=CN1)C1=CC(=NC=C1)C(C)(C)C#N)C(=O)NN | C14H15N7O
reactant | 2-tert-butoxycarbonyl-3,4-dihydro-1H-isoquinoline-6-carboxylic acid | 0.1832 mmol, 50.80 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)C(=O)O | C15H19NO4
reactant | diisopropyl ethyl amine | 0.1998 mmol, 34.80 μL, 25.82 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (benzotriazol-1-yloxy-dimethylamino-methylene)-dimethyl-ammonium tetrafluoroborate | 0.1832 mmol, 58.82 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
solvent | N,N-dimethyl formamide | 495.0 μL | CN(C=O)C | C3H7NO
product | tert-butyl 6-[[[3-amino-6-[2-(1-cyano-1-methyl-ethyl)-4-pyridyl]pyrazine-2-carbonyl]amino]carbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylate | NC=1C(=NC(=CN1)C1=CC(=NC=C1)C(C)(C)C#N)C(=O)NNC(=O)C=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C29H32N8O4
